US07737295B2
2-Amino-5-(trifluoromethyl)benzonitrile (3.06 g, 16.45 mmol) was suspended in CH2I2 (36 mL) and t-butyl nitrite (3.9 mL, 32.9 mmol) was added dropwise by syringe. The reaction was heated slowly to 100° C. and was maintained at this temperature for 30 minutes. The reaction was then cooled to room temperature, diluted with hexanes (200 mL), loaded on a silica gel column, and purified with 100% hexanes to 15% EtOAc/hexanes. The resulting product, 2-iodo-5-(trifluoromethyl)benzonitrile was contaminated with minor impurities which were removed by silica gel chromatography with 25% CH2Cl2/hexanes. 2-Iodo-5-(trifluoromethyl)benzonitrile was obtained as a white solid. Rf=0.44 (15% EtOAc/hexanes). 1H NMR (CDCl3, 500 MHz) δ 8.10 (d, J=8.5 Hz, 1H), 7.85 (d, J=1.8 Hz, 1H), 7.52 (dd, J=8.5, 1.8 Hz, 1H).

reactant | 2-Amino-5-(trifluoromethyl)benzonitrile | 16.45 mmol, 3.06 g | NC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H5F3N2
reactant | t-butyl nitrite | 32.9 mmol, 3.9 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | CH2I2 | 36 mL | C(I)I | CH2I2
product | 2-Iodo-5-(trifluoromethyl)benzonitrile | IC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H3F3IN
